US20010044070A1
180 g of 2-Ethyl-2-adamantanol, 303 g of triethylamine and 500 g of methylisobutyl ketone were mixed by stirring at 90° C. While stirring, 157 g of methacrylic acid chloride was added dropwise to the mixture. After completion of the dropwise addition, the mixture was further stirred for72 hours. Then, extraction and distillation were conducted to obtain 2-ethyl-2-adamantyl methacrylate at the yield of 60%.

reactant | 2-Ethyl-2-adamantanol | 180 g | C(C)C1(C2CC3CC(CC1C3)C2)O | C12H20O
reactant | triethylamine | 303 g | C(C)N(CC)CC | C6H15N
reactant | methacrylic acid chloride | 157 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | methylisobutyl ketone | 500 g | CC(=O)CC(C)C | C6H12O
product | 2-ethyl-2-adamantyl methacrylate | yield of 60% | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)CC | C16H24O2
